US06288062B1
2-Acetamido-4-(4-fluorophenyl)-5-(4-pyridyl)oxazole
A mixture of 2-amino-4-(4-fluorophenyl)-5-(4-pyridyl)oxazole (0.090 g, 0.353 mmol) in acetic anhydride (4 mL) was stirred at room temperature. After 72 h the mixture was poured into H2O and neutralized with conc. NH4OH. The resulting precipitate was filtered and washed with H2O. Purification by column chromatography (0-5% MeOH/CHCl3), followed by recrystallization from MeOH afforded the title compound as a white solid (30.0 mg):ESMS (m/z): 298.0 (M++H).

reactant | 2-amino-4-(4-fluorophenyl)-5-(4-pyridyl)oxazole | 0.353 mmol, 0.090 g | NC=1OC(=C(N1)C1=CC=C(C=C1)F)C1=CC=NC=C1 | C14H10FN3O
reactant | H2O | O | H2O
reactant | NH4OH | [NH4+].[OH-]
reactant | acetic anhydride | 4 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 2-Acetamido-4-(4-fluorophenyl)-5-(4-pyridyl)oxazole | 30.0 mg | C(C)(=O)NC=1OC(=C(N1)C1=CC=C(C=C1)F)C1=CC=NC=C1 | C16H12FN3O2
